US08912180B2
To a mixture of ethyl-4-(4-cyanophenyl)-1-piperazine carboxylate (10 g), sodium borohydride (3.4 g), and tetrahydrofuran (50 mL) was added a mixture of iodine (9.8 g) and tetrahydrofuran (50 mL) under a nitrogen gas flow while ice-cooling, followed by stirring at the same temperature for 1 hour, and then further heating and refluxing for 3 hours. The reaction solution was ice-cooled and a 6 M hydrochloric acid solution was added thereto to adjust the pH to 1. The reaction solution was stirred at 70° C. for 30 minutes. After leaving to be cooled, sodium hydroxide was added thereto to adjust the pH to 10, followed by extraction with ethyl acetate. The extracts were washed with saturated brine, the organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was made into powder using tetrahydrofuran, ethyl acetate, and diisopropyl ether, to obtain ethyl-4-[4-(aminomethyl)phenyl]-1-piperazine carboxylate (5.2 g).

reactant | ethyl-4-(4-cyanophenyl)-1-piperazine carboxylate | 10 g | C(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C#N | C14H17N3O2
reactant | sodium borohydride | 3.4 g | [BH4-].[Na+]
reactant | iodine | 9.8 g | II | I2
reactant | hydrochloric acid | 6 M | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | ethyl-4-[4-(aminomethyl)phenyl]-1-piperazine carboxylate | 5.2 g | C(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)CN | C14H21N3O2
